US05580875
Decanoic acid 2-[2-[4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl ethyl]-3-oxo-2,3-dihydro-1H-isoindol-1-yl ester
To a solution of 2-[2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl-2,3-dihydro-3-hydroxy-I H-isoindol-1-one (1.4 g, 3.5 mmol) in DCM (30 ml) was added Et3N (1.2 ml, 8.8 mmol) followed by decanoyl chloride at 0 C under nitrogen. After stirring for 1 h in the cooling bath, the solvent was removed using a stream of nitrogen. The remaining residue was diluted with EtOAc and the precipitated triethylamine hydrochloride was filtered off. The filtrate was concentrated and the remaining oil was flushed through alumina with ether to give 1.6 g (83%) of the desired product as a yellow oil.

reactant | 2-[4-(6-fluoro-1,2-benzisoxazol-3-yl)-1-piperidinyl]ethyl-2,3-dihydro-3-hydroxy-I H-isoindol-1-one | 3.5 mmol, 1.4 g | FC1=CC2=C(C(=NO2)C2CCN(CC2)CCN2C(C3=CC=CC=C3C2O)=O)C=C1 | C22H22FN3O3
reactant | Et3N | 8.8 mmol, 1.2 ml | CCN(CC)CC | C6H15N
reactant | decanoyl chloride | C(CCCCCCCCC)(=O)Cl | C10H19ClO
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
product | Decanoic acid | 1.6 g, 83% | C(CCCCCCCCC)(=O)O | C10H20O2
